US09169254B2
p-Nitrophenyl chloroformate (437 mg, 2.17 mmol) was added to a solution of 4-bromo-3-trifluoromethyl-aniline (400 μl, 1.67 mmol) and pyridine (202 μl, 2.50 mmol) in CH2Cl2 (6.2 ml) at 0° C. The mixture was stirred at 0° C. for one hour, and 2-amino-ethanol (150 μl, 2.50 mmol) was then added, followed by further stirring at 0° C. for two hours. Triethylamine (210 μl, 1.51 mmol) was added to the mixture, and the mixture was stirred at 0° C. for one hour. 1 N HCl was added to the reaction mixture, followed by extraction with CH2Cl2/AcOEt. The organic layer was washed with water (×2), and then dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CH2Cl2-MeOH) to give 1-(4-bromo-3-trifluoromethyl-phenyl)-3-(2-hydroxy-ethyl)-urea as a white powder (520 mg, 73%).

reactant | p-Nitrophenyl chloroformate | 2.17 mmol, 437 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-bromo-3-trifluoromethyl-aniline | 1.67 mmol, 400 μl | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | pyridine | 2.50 mmol, 202 μl | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-ethanol | 2.50 mmol, 150 μl | NCCO | C2H7NO
reactant | Triethylamine | 1.51 mmol, 210 μl | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 6.2 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-bromo-3-trifluoromethyl-phenyl)-3-(2-hydroxy-ethyl)-urea | 520 mg, 73% | BrC1=C(C=C(C=C1)NC(=O)NCCO)C(F)(F)F | C10H10BrF3N2O2
